US09238639B2
D) (6-((2-Chloro-4-(3-methoxypropoxy)benzyl)oxy)-2,3-dihydro-1-benzofuran-3-yl)acetic acid
To the solution of methyl(6-((2-chloro-4-hydroxybenzyl)oxy)-2,3-dihydro-1-benzofuran-3-yl)acetate (34.9 mg) in toluene (0.25 mL) and THF (0.25 mL) were added a solution of 3-methoxy-1-propanol (13.5 mg) in toluene (0.5 mL) and a solution of tributylphosphine (40.5 mg) in toluene (0.5 mL). To the mixture was added ADDP (50.5 mg) and the mixture was stirred at room temperature overnight. To the mixture was added water (1.0 mL), and the mixture was extracted with EtOAc (2.0 mL). The organic layer was separated and concentrated. The residue was purified by preparative HPLC (C18, eluent: water/CH3CN (including 0.1% TFA)). After solvent evaporated, the residue was added 1.0 N NaOH (0.5 mL) and the mixture was stirred at 50° C. overnight. The mixture was added EtOAc (3.0 mL), and the organic layer was separated. The aqueous layer was acidified with 10% aqueous citric acid solution (0.5 mL), and extracted with EtOAc (3.0 mL). The organic layer was separated and concentrated. The residue was purified by preparative HPLC (C18, eluent: water/CH3CN (including 0.1% TFA)). The solvent was evaporated to give the title compound (13.1 mg).

reactant | methyl(6-((2-chloro-4-hydroxybenzyl)oxy)-2,3-dihydro-1-benzofuran-3-yl)acetate | 34.9 mg | COC(CC1COC2=C1C=CC(=C2)OCC2=C(C=C(C=C2)O)Cl)=O | C18H17ClO5
reactant | 3-methoxy-1-propanol | 13.5 mg | COCCCO | C4H10O2
reactant | tributylphosphine | 40.5 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | ADDP | 50.5 mg | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
solvent | toluene | 0.25 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 0.25 mL | C1CCOC1 | C4H8O
solvent | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 1.0 mL | O | H2O
product | (6-((2-Chloro-4-(3-methoxypropoxy)benzyl)oxy)-2,3-dihydro-1-benzofuran-3-yl)acetic acid | 13.1 mg | ClC1=C(COC2=CC3=C(C(CO3)CC(=O)O)C=C2)C=CC(=C1)OCCCOC | C21H23ClO6
